US07241761B2
(a) 5-Chloro-2-piperazin-1-yl-benzothiazole
A mixture of 0.49 mmol 2,5-dichlorobenzothiazole (CA=[2941-48-2]), 1.47 mmol of piperazine and 1.47 mmol of triethylamine in 5 ml of tetrahydrofuran in a sealed tube was heated at 160° C. for 5 min under microwave irradiation. The reaction mixture was concentrated, and the residue was purified by chromatography (SiO2, methanol/dichloromethane) to yield the title compound as a white solid.

reactant | 2,5-dichlorobenzothiazole | 0.49 mmol | ClC=1SC2=C(N1)C=C(C=C2)Cl | C7H3Cl2NS
reactant | piperazine | 1.47 mmol | N1CCNCC1 | C4H10N2
reactant | triethylamine | 1.47 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-Chloro-2-piperazin-1-yl-benzothiazole | ClC=1C=CC2=C(N=C(S2)N2CCNCC2)C1 | C11H12ClN3S
